### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology/SimplicialSet): evaluation on subcomplexes

### PR DESCRIPTION
**Pull request by joelriou**
In this PR, given a simplicial set `X` and `j : SimplexCategoryᵒᵖ`, we define a functor `evaluation X j : X.Subcomplex ⥤ Set (X.obj j)`, and use it to show that the functor `Subcomplex.toSSetFunctor` which sends a subcomplex of `X` to the corresponding simplicial set preserves filtered colimits.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by FernandoChu — APPROVED** [review]
LGTM

File: Mathlib/AlgebraicTopology/SimplicialSet/Subcomplex.lean [hunk 1]
```diff
@@ -159,6 +159,17 @@ lemma mem_ofSimplex_obj_iff {n : ℕ} (x : X _⦋n⦌) {m : SimplexCategoryᵒ
...
+@[simp]
+lemma ofSimplex_map {X : SSet.{u}} {n m : ℕ} (f : ⦋n⦌ ⟶ ⦋m⦌) [Epi f]
+    (x : X _⦋m⦌) :
+    ofSimplex (X.map f.op x) = ofSimplex x := by
+  refine le_antisymm ?_ ?_
+  · simp only [Subfunctor.ofSection_le_iff]
+    exact ⟨f.op, by simp⟩
+  · simp only [Subfunctor.ofSection_le_iff]
+    have := isSplitEpi_of_epi f
+    exact ⟨(section_ f).op, by simp [← FunctorToTypes.map_comp_apply, ← op_comp]⟩
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/Subcomplex.lean]: I think this one should be split as two lemmas: `ofSimplex_map_le` is probably convenient
to have on its own (e.g., for using with `grw`).

```suggestion
lemma ofSimplex_map_le {X : SSet.{u}} {n m : ℕ} (f : ⦋n⦌ ⟶ ⦋m⦌)
    (x : X _⦋m⦌) :
    ofSimplex (X.map f.op x) ≤ ofSimplex x := by
  simp only [Subfunctor.ofSection_le_iff]
  exact ⟨f.op, by simp⟩

@[simp]
lemma ofSimplex_map_of_epi {X : SSet.{u}} {n m : ℕ} (f : ⦋n⦌ ⟶ ⦋m⦌) [Epi f]
    (x : X _⦋m⦌) :
    ofSimplex (X.map f.op x) = ofSimplex x := by
  refine le_antisymm (ofSimplex_map_le f x) ?_
  simp only [Subfunctor.ofSection_le_iff]
  have := isSplitEpi_of_epi f
  exact ⟨(section_ f).op, by simp [← FunctorToTypes.map_comp_apply, ← op_comp]⟩
```

File: Mathlib/AlgebraicTopology/SimplicialSet/SubcomplexEvaluation.lean [hunk 2]
```diff
@@ -0,0 +1,48 @@
...
+
+/-- The evaluation functor `X.Subcomplex ⥤ Set (X.obj j)` when `X : SSet`
+and `j : SimplexCategoryᵒᵖ`. -/
+@[simps]
+def evaluation (X : SSet.{u}) (j : SimplexCategoryᵒᵖ) :
+    X.Subcomplex ⥤ Set (X.obj j) where
+  obj A := A.obj j
+  map f := CategoryTheory.homOfLE (leOfHom f j)
+
+instance {J : Type*} [Category J] {X : SSet.{u}} [IsFilteredOrEmpty J] :
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/SubcomplexEvaluation.lean]:
```suggestion
instance {J : Type*} [Category* J] {X : SSet.{u}} [IsFilteredOrEmpty J] :
```
